US05730954
1. Tri-o-thymotide/methyl bromide
Tri-o-thymotide (25 g) was dissolved in 2,2,4-trimethylpentane (50 ml) at 100° C. and the hot solution was introduced into the high pressure autoclave. Methyl bromide was added to the autoclave until a pressure of 200 bar was reached. The high pressure autoclave was then kept for 2 hours at 110° C. and the solution was then cooled down to room temperature within 5 days. The crystals were filtered off and washed 3 times with cold 2,2,4-trimethylpentane. The crystals were then dried in the drying cabinet at 50° C.

reactant | Tri-o-thymotide | 25 g | CC1=C2C(=C(C=C1)C(C)C)OC(=O)C3=C(C=CC(=C3OC(=O)C4=C(C=CC(=C4OC2=O)C(C)C)C)C(C)C)C | C33H36O6
reactant | Methyl bromide | CBr | CH3Br
solvent | 2,2,4-trimethylpentane | 50 ml | CC(C)(CC(C)C)C | C8H18
product | Tri-o-thymotide methyl bromide | CC1=C2C(=C(C=C1)C(C)C)OC(=O)C3=C(C=CC(=C3OC(=O)C4=C(C=CC(=C4OC2=O)C(C)C)C)C(C)C)C.CBr | InChI=1S/C33H36O6.CH3Br/c1-16(2)22-13-10-19(7)25-28(22)37-32(35)26-20(8)11-14-23(17(3)4)29(26)39-33(36)27-21(9)12-15-24(18(5)6)30(27)38-31(25)34;1-2/h10-18H,1-9H3;1H3
